US07858784B2
Synthesis of 1-(4-(biphenyl-4-ylamino)phenyl)ethanone (FIG. 9, Table 5, Entry 5)
Following general procedure A, a mixture of 4-biphenylmethanesulfonate (124 mg, 0.5 mmol), 4′-aminoacetophenone (81 mg, 0.6 mmol), K2CO3 (97 mg, 0.7 mmol), 10 (4 mg, 1 mol %), 1 (2.5 mg, 1 mol %), and t-BuOH (6 mL) was heated to 110° C. for 16 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 15-50% EtOAc/hexanes) to provide the title compound as a white solid (139 mg, 97%), mp 136-139° C. 1H NMR (300 MHz, CDCl3) δ: 7.90 (d, J=9.0 Hz, 2H), 7.59 (m 4H), 7.45 (t, J=7.0 Hz, 2H), 7.35 (t, J=7.0 Hz, 1H), 7.25 (d, J=9.0 Hz, 2H), 7.05 (d, J=9.0 Hz, 2H), 6.35 (s 1H), 2.55 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 196.8, 148.4, 140.7, 140.2, 136.2, 130.9, 129.3, 129.1, 128.4, 127.3, 127.0, 120.9, 114.9, 26.5 ppm. IR (neat, cm−1): 3324, 1656, 1586, 1524, 1487, 1339, 1278, 1178, 827, 763.

reactant | 4-biphenylmethanesulfonate | 0.5 mmol, 124 mg | C1(=CC=C(C=C1)CS(=O)(=O)[O-])C1=CC=CC=C1
reactant | 4′-aminoacetophenone | 0.6 mmol, 81 mg | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | K2CO3 | 0.7 mmol, 97 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | t-BuOH | 6 mL | CC(C)(C)O | C4H10O
product | 1-(4-(biphenyl-4-ylamino)phenyl)ethanone | 139 mg, 97% | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C(C)=O)C1=CC=CC=C1 | C20H17NO
